US03932398
1-(2-Bromoethyl)quinolinium Bromide
A solution of quinoline (20 ml) in 200 ml of 1,2-dibromoethane was heated under nitrogen at 70°C. for 18 hours. The crystalline solid was filtered, washed with dichloromethane and recrystallized from methanol-ether. Collected 32 g (65 per cent yield) m.p. 205°-207°C. Nmr (D2O) 4.22 (t, 2), 5.63 (t, 2), 7.8 - 8.6 (m, 5), 9.1 - 9.6 (m, 3).

reactant | quinoline | 20 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | 1,2-dibromoethane | 200 ml | BrCCBr | C2H4Br2
product | 1-(2-Bromoethyl)quinolinium Bromide | [Br-].BrCC[N+]1=CC=CC2=CC=CC=C12 | InChI=1S/C11H11BrN.BrH/c12-7-9-13-8-3-5-10-4-1-2-6-11(10)13;/h1-6,8H,7,9H2;1H/q+1;/p-1
